US03931183
To a suspension of 10.0 g. of powdered 1-(4'-fluorobenzyl)-2-methylamino-pyrido[2,3-d]pyrimidin-4(1H)-one in 300 ml. of tetrahydrofuran is added portionwise over the course of 5 minutes 4.8 g. of potassium t-butoxide and the resulting mixture is stirred at room temperature for 45 minutes. There is then added 6.5 g. of methyl iodide followed by stirring at room temperature for two days. The resulting mixture is filtered through celite and the filtrate evaporated to dryness. The residue is dissolved in 100 ml. of methylene chloride, washed twice with water, dried, filtered and evaporated to dryness. The residue is dissolved in a small amount of chloroform and filtered through a 650 ml. filter column using silica and chloroform. The combined product containing fractions are evaporated to dryness, the residue dissolved in 50 ml. of methylene chloride and ether added while warming on a steam bath to obtain 1-(4'-fluorobenzyl)-2-dimethylamino-pyrido[2,3-d]pyrimidin-4(1H)-one, m.p. 167°-170°C.

reactant | 1-(4'-fluorobenzyl)-2-methylamino-pyrido[2,3-d]pyrimidin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=C2N=CC=C3)=O)NC)C=C1 | C15H13FN4O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4'-fluorobenzyl)-2-dimethylamino-pyrido[2,3-d]pyrimidin-4(1H)-one | FC1=CC=C(CN2C(=NC(C3=C2N=CC=C3)=O)N(C)C)C=C1 | C16H15FN4O
